Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
ciprofloxacin
 
Attending: ___.
 
Chief Complaint:
Shortness of Breath and Tachycardia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with history of HTN, HLD, post-procedural / provoked 
pulmonary embolism ___ years ago, recent hip surgery ~5 weeks 
ago, evaluated in Urgent Care clinic for tachycardia.
Pt recently underwent hip surgery 5 weeks ago, and discharged to 
rehab on warfarin x 3 weeks post-op (last day = ___, with 
goal INR 1.8 - 2.3. Per pt's report, has been subtherapeutic, 
although he is unclear of the details, not bridged with Lovenox. 
Around the time in ___ Rehab, intermittently tachycardic 
to 110s, asymptomatic, ___ negative. Discharged to community 
with ___ services. Last week, developed hematuria, difficulty 
voiding and single fever spike to 101 for which he called his 
PCP. He was empirically started on ciprofloxacin, and Urine 
culture revealed pansensitive E. coli. ___ days after starting 
ABX, developed tingling and fullness in calves b/l, thought ___ 
to medication effect and transitioned to Bactrim without effect. 
He does note 3 days of immobilization during this time period.  
 During this time, ___ had been noting tachycardia with minimal 
exertion. Pt estimates 110s --160s, asymptomatic during this 
episodes. He has noted DOE with 20 steps in last ___ days. 
Denies ongoing fever, chills, cough, SOB at rest, chest 
pain/pressure/discomfort, constipation.  Denies ___ edema.  He 
presented to ___ clinic today for evaluation.
In ___ clinic Urgent Care eval, was noted to have asymptomatic 
resting tachycardia to 110's and asymptomatic tachycardia to the 
160's with exertion.  He was referred to the ED for PE work-up.
.
In the ED, he was noted to have stable VS with the exception of 
tachycardia.  He underwent CTA and was found to have bilateral 
pulmonary embolism with possible right heart strain.  He  was 
started on heparin drip.  He remained asymptomatic at rest.  The 
Pulmonary Embolism Consult team was referred his case, and they 
recommended a TTE to evaluate right heart strain.
.
Following arrival to the floor, the patient denies any symptoms 
of chest pain or SOB at rest.  He denies fevers, chills, nausea 
or vomiting.  He no longer has urinary symptoms.
.
ROS: 10-point ROS negative except as noted above in HPI.
 
Past Medical History:
GASTROESOPHAGEAL REFLUX  
COLONIC POLYPS  
___ ESOPHAGUS  
ANEMIA  
FATTY LIVER  
LOW BACK PAIN  
PYELONEPHRITIS
Left leg atrophy due to childhood polio
Right TKR
Right THR

 
Social History:
___
Family History:
Sister with history of PE. Mother and father with history of 
cancer, unclear primary at advanced age. MI in brother age ___.
 
Physical Exam:
ADMISSION EXAM:
VITALS - 97.7, 134/83, 80, 20, 96%RA  
GENERAL - pleasant, well-appearing, in NAD
HEENT - NC/AT, no conjunctival pallor or scleral icterus, 
PERRLA, EOMI, OP clear
NECK - supple, no LAD, no thyromegaly, JVP flat
CARDIAC - RRR, normal S1/S2, no murmurs rubs or gallops
PULMONARY - CTAB, without wheezes or rhonchi
ABDOMEN - normal BS, soft, NT, ND, no HSM
GU: no CVAT
EXTREMITIES - warm, well-perfused. RLE > LLE, at baseline per 
patient. R hip with well healing scar from recent surgery
SKIN - without rash
NEUROLOGIC - A&Ox3, CN II-XII grossly normal, normal sensation, 
with strength ___ throughout. Gait assessment deferred  
PSYCHIATRIC - listen & responds to questions appropriately, 
pleasant

DISCHARGE EXAM:
Vitals: Tm 98.4, BP 106/68, HR 81, RR 18, O2Sat 98%RA
General- Awake, well-appearing man, lying in bed, NAD 
HEENT- PERRL, EOMI, sclera anicteric and not injected, MMM, 
oropharynx clear
Lungs- CTAB, no wheezes/crackles/rhonchi, good air movement 
throughout all lung fields
CV- RRR, normal S1/S2, no m/r/g, no RV heave
Abdomen- soft, NT, ND, BS+, no rebound/guarding, no HSM
Ext- LLE atrophic in setting of distant polio. No calf 
tenderness to palpation. Trace pitting edema to the mid shins 
bilaterally. 
Neuro- A&O x 3, moves all extremities spontaneously
 
Pertinent Results:
ADMISSION LABS:
___ 07:03PM BLOOD WBC-10.1* RBC-4.26* Hgb-12.9*# Hct-40.3 
MCV-95 MCH-30.3 MCHC-32.0 RDW-13.5 RDWSD-46.5* Plt ___
___ 07:03PM BLOOD Neuts-65.7 ___ Monos-6.2 Eos-4.2 
Baso-0.5 Im ___ AbsNeut-6.64* AbsLymp-2.32 AbsMono-0.63 
AbsEos-0.42 AbsBaso-0.05
___ 07:03PM BLOOD ___ PTT-25.4 ___
___ 07:03PM BLOOD Glucose-101* UreaN-16 Creat-0.9 Na-135 
K-4.0 Cl-101 HCO3-22 AnGap-16
___ 07:03PM BLOOD cTropnT-<0.01
___ 07:03PM BLOOD proBNP-324*

DISCHARGE LABS:
___ 07:20AM BLOOD WBC-7.3 RBC-3.90* Hgb-11.8* Hct-37.0* 
MCV-95 MCH-30.3 MCHC-31.9* RDW-13.7 RDWSD-47.3* Plt ___
___ 07:20AM BLOOD Glucose-85 UreaN-13 Creat-0.8 Na-140 
K-4.2 Cl-109* ___ AnGap-12

MICROBIOLOGY
___ 9:50 pm URINE      UCU ADDED TO ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING AND REPORTS:
___ CTA CHEST:
1. Pulmonary emboli affecting all lobes and segments, with 
significant overall clot burden, however no evidence of 
pulmonary infarction. 
2. Straightening of the interventricular septum raises concern 
for right heart strain.  Echocardiography is recommended for 
further evaluation. 
3. Partially visualized 1.7 cm right thyroid nodule.  If not 
already performed, nonurgent thyroid ultrasound is suggested.
  
___ LENIS:
No evidence of deep venous thrombosis in the visualized right or 
left lower extremity veins, however the right peroneal vein was 
not well visualized. 

___ TTE
IMPRESSION: Normal global and regional biventricular systolic 
function. No evidence of RV strain on echocardiography.

 
Brief Hospital Course:
BRIEF HOSPITAL COURSE
Mr ___ is a ___ year old man with a history of provoked PE 
___ post knee replacement), HLD, and GERD ___ 
esophagus and right hip replacement 5 weeks ago who presented to 
the ED with tachycardia and was found to have multiple pulmonary 
emboli by CTA in the setting of recent discontinuation of 
post-surgery warfarin DVT prophylaxis.

#Pulmonary Embolism/DVT: Patient presented with bilateral leg 
fullness and tingling, tachycardia, and some worsening dyspnea 
on exertion in the setting of recent discontinuation of warfarin 
for post-surgical DVT prophylaxis. CTA demonstrated pulmonary 
emboli impacting all lobes and segments, with some concern for 
right heart strain. He was started on IV heparin GTT and 
transitioned to apixiban 10 mg PO BID (___) with plan to load 
for 7 days, followed by 5 mg PO BID for at least three months 
and likely indefinitely. EKG was consistent with ___ prior and 
did not show any evidence of right heart strain such as inferior 
lead ischemic changes or new RBBB. TTE showed no right heart 
strain and normal biventricular function.  Patient remained 
hemodynamically stable on the floor without tachycardia at rest 
or hypotension.  Tachycardia on exertion was minimal.  ___ at 
___ did not show any DVT.  Of note, even though this VTE was 
provoked, this is his #2 provoked VTE.  Also, he was 
anti-coagulated for 3 weeks post-op (although goal INR was 
suboptimal at 1.8 - 2.3 per Orthopedics request).  He did have a 
negative hypercoagulable work-up in the past by Dr. ___ at 
___ Hematology.  However, given that this is his second 
provoked VTE, would recommend life long anticoagulation if no 
bleeding contraindications.   Patient was advised to follow-up 
with his PCP to further discuss and to consider seeing 
Hematology again.

#UTI/Pyelonephritis: On admission patient was on treatment for 
pyelonephritis. Repeat urine culture during this admission was 
negative. All symptoms had resolved since initiation of 
ciprofloxacin (known sensitive) which was eventually 
transitioned to Bactrim (known sensitive). First day of 
ciprofloxacin was ___.  Continued Sulfameth/Trimethoprim DS 1 
TAB PO/NG BID for total 14 day course, last day will be ___.

TRANSITIONAL ISSUES
#New medications:
-Apixaban 10 mg PO BID until ___ -> On ___ transition to 
apixaban 5 mg PO BID indefinitely
-Aspirin 81 mg QD (decreased from 325 mg QD dosing)

#Follow-up:
-Patient to schedule a follow-up appointment with his PCP within 
one week of discharge

#Thyroid nodule: CT noted a 1.7 cm thyroid nodule on the right 
side. Radiology recommended a non-urgent ultrasound for further 
evaluation.  This was communicated to the patient extensively as 
well as his PCP via email to obtain TFT's and a dedicated 
thyroid  ultrasound.

#Antibiotics course for complicated UTI:
Sulfameth/Trimethoprim DS 1 TAB PO/NG BID. Last day ___ for 
___nticoagulation: Started apixiban 10 mg PO BID on evening of 
___ plan for 7 days (___), followed by 5 mg PO BID for at 
least three months and likely indefinitely given history of 2 
VTE events. 
# CONTACT: Wife ___ ___ 
# CODE STATUS: FULL
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 20 mg PO QPM 
2. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
3. Pantoprazole 40 mg PO Q24H 
4. Aspirin 81 mg PO DAILY 
5. Sulfameth/Trimethoprim DS 1 TAB PO BID 

 
Discharge Medications:
1. Atorvastatin 20 mg PO QPM 
2. Pantoprazole 40 mg PO Q24H 
3. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
4. Apixaban 10 mg PO BID 
x 7 days (last day ___ then switch to 5mg BID 
5. Sulfameth/Trimethoprim DS 1 TAB PO BID 
Last day ___ to treat your urinary tract infection 
6. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Sub-massive pulmonary emboli
Complicated Urinary Tract Infection

Secondary:
GERD
Thyroid Nodule

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a privilege taking care of you during your 
hospitalization at ___. You were admitted because you had a 
fast heart rate, some shortness of breath going upstairs, and a 
CT scan showed blood clots in your lungs. You were started on an 
IV blood thinning medication in the ED, heparin, and then 
switched to an oral blood thinning medication, apixaban. You 
will continue to take the apixaban for at least three months and 
possibly longer after talking with your primary care doctor.

While you were in the hospital you also had an ultrasound of 
your heart which showed normal heart function.

You also had an ultrasound of your legs that did not show any 
blood clots.

As discussed the CT scan also showed a nodule on your thyroid. 
You can discuss further evaluation of this nodule with your 
primary care doctor.

**New Medications**
Apixaban 5mg:
-Take 2 tablets by mouth twice a day through ___ 
-Then take 1 tablet by mouth twice a day starting ___

Please follow up with all scheduled appointments and continue 
taking all medications as prescribed. If you develop any of the 
danger signs below, please contact your health care providers or 
go to the emergency room immediately. 

We wish you the best.

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___